US05032313
1-(4-Pentylcyclohexen-1-yl)-3,4,5-trifluorobenzene as an intermediate obtained in Example 1 (5 g) was dissolved in xylene (50 ml), followed by adding chloranil (4.5 g), reacting the mixture under reflux for 10 hours, cooling the resulting material down to room temperature, filtering off the resulting deposited hydroquinone derivative, washing the filtrate with a dilute alkali aqueous solution, washing with water till the washing water became neutral, drying over anhydrous sodium sulfate, distilling off xylene from the organic layer, dissolving the residue in n-hexane, purifying the solution according to silica gel column chromatography, collecting fractions exhibiting a single spot according to thin layer chromatography, distilling off n-hexane and recrystallizing the residue from ethyl alcohol to obtain 4'-pentyl-3,4,5-trifluorobiphenyl (3.2 g).

reactant | 1-(4-Pentylcyclohexen-1-yl)-3,4,5-trifluorobenzene | C(CCCC)C1CC=C(CC1)C1=CC(=C(C(=C1)F)F)F | C17H21F3
reactant | chloranil | 4.5 g | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4'-pentyl-3,4,5-trifluorobiphenyl | 3.2 g | C(CCCC)C1=CC=C(C=C1)C1=CC(=C(C(=C1)F)F)F | C17H17F3
